US05980935
75 mg (0.101 mmol) of dioleoylphosphatidylethanolamine (Avanti Polar Lipids, USA) (DOPE), 34.3 mg (0.110 mmol) of Nalpha -tret-butoxycarbonyl-arginine hydrochloride (Sigma, USA), 24.8 mg (0.129 mmol) of N-ethyl-N'-dimethylaminopropyl-carbodiimide hydrochloride (Sigma, USA), and 14.9 mg (0.129 mmol) of N-hydroxysuccinimide (Sigma, UAS) were dissolved in 2 ml of chloroform and incubated with agitation at 37° C. for 3 hours. At that point, TLC (CHCl3 --CH3OH--H2 65:25:4, silica) showed 100% conversion of DOPE (Rf 0.49) into faster moving, ninhydrin-negative product (Rf 0.69), identified as N-(Nalpha -tret-butoxycarbonyl-arginyl)-DOPE. This product was purified by chromatography on silica and deprotected by treatment with 4M HCl in anhydrous dioxane for 3 hours. After removal of volatiles in vacuum, the residue was chromatographed on silica, eluent CHCl3 --CH3OH 7:3, to obtain Arg-PE (Rf 0.26 in the above system) with the yield of 10.8 mg (12% of theory). Phosphate to primary amino group ratio: Theory 1.0, Found 0.90±0.12.

reactant | butoxycarbonyl-arginine hydrochloride | Cl.C(CCC)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | N-ethyl-N'-dimethylaminopropyl-carbodiimide hydrochloride | 0.129 mmol, 24.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxysuccinimide | 0.129 mmol, 14.9 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | CHCl3 CH3OH H2 | C(Cl)(Cl)Cl.CO.[H][H]
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
